US06720320B2
By the reactions in the same manner as in Starting Material Synthesis Example 25 using ethyl 4-hydroxy-1-(2-methylpropyl)indole-2-carboxylate (5.0 g) obtained in Starting Material Synthesis Example 12, (S)-glycidyl nosylate (4.5 g) and 4-(naphthalen-2-yl)piperidine (5.3 g), ethyl (S)-4-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)-1-(2-methylpropyl)indole-2-carboxylate (7.5 g) was obtained. This was dissolved in ethanol (40 ml) and water (30 ml) and potassium hydroxide (4.0 g) were added. The mixture was refluxed for 2.5 hr. From the obtained reaction mixture, ethanol was evaporated under reduced pressure and 1N aqueous hydrochloric acid solution (30 ml) was added under ice-cooling. The mixture was extracted with chloroform. The obtained organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and isopropyl ether was added to the obtained oil. The obtained crystals were collected by filtration to give the title compound (6.7 g) as pale-yellow crystals.

reactant | ethyl 4-hydroxy-1-(2-methylpropyl)indole-2-carboxylate | 5.0 g | OC1=C2C=C(N(C2=CC=C1)CC(C)C)C(=O)OCC | C15H19NO3
reactant | (S)-glycidyl nosylate | 4.5 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | 4-(naphthalen-2-yl)piperidine | 5.3 g | C1=C(C=CC2=CC=CC=C12)C1CCNCC1 | C15H17N
product | ethyl (S)-4-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)-1-(2-methylpropyl)indole-2-carboxylate | 7.5 g | O[C@H](COC1=C2C=C(N(C2=CC=C1)CC(C)C)C(=O)OCC)CN1CCC(CC1)C1=CC2=CC=CC=C2C=C1 | C33H40N2O4
